US05576324
2-[1-(2-Aminoethylthio)methyl]-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one:
To a suspension of 2-bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (0.882 g) in dimethylformamide (40 ml), cysteamine hydrochloride (3.41 g) and caustic soda (2.40 g) in water (20 ml) were added and stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure. The residue was combined with water, and extracted with chloroform. The extract was washed with water and dried. The solvent was evaporated and the residue was crystallized from chloroform--n-hexane to obtain 0.714 g of the title compound as pale yellow prisms (mp.: 182°-184° C.).

reactant | 2-bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 0.882 g | BrCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H12BrNO2
reactant | cysteamine hydrochloride | 3.41 g | Cl.NCCS
reactant | caustic soda | 2.40 g | [OH-].[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 2-[1-(2-Aminoethylthio)methyl]-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 0.714 g, Yield: 82.0% | NCCSCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C15H18N2O2S
